US07718683B2
2-(4-tert-Butyl-benzenesulfonylamino)-4-fluoro-benzoic acid (23 g, 65.5 mmol) was added to 230 mL of stirring acetic acid in a 500 mL round bottom flask. N-chlorosuccinimide (17.5 g, 131 mmol) was then added and the mixture heated to 80° C. under a N2 atmosphere. The reaction was determined to be complete in seven hours according to LCMS analysis. The heat bath was subsequently removed and the reaction was quenched via the addition of 250 mL of a 50% solution of sodium metabisulfite. The mixture immediately formed a thick white slurry which was allowed to stir for approximately 15 minutes. Vacuum filtration of the slurry resulted in a white solid that was washed with a small amount of water and dried in vacuo to generate 22 g of 2-(4-tert-butyl-benzenesulfonylamino)-5-chloro-4-fluoro-benzoic acid (white solid, 87% yield): HPLC retention time=2.87 minutes; MS (ES) M+H expected 386.0, found 386.0.

reactant | 2-(4-tert-Butyl-benzenesulfonylamino)-4-fluoro-benzoic acid | 65.5 mmol, 23 g | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=C(C(=O)O)C=CC(=C1)F | C17H18FNO4S
reactant | N-chlorosuccinimide | 131 mmol, 17.5 g | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | acetic acid | 230 mL | C(C)(=O)O | C2H4O2
product | 2-(4-tert-butyl-benzenesulfonylamino)-5-chloro-4-fluoro-benzoic acid | 22 g, 87% yield | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=C(C(=O)O)C=C(C(=C1)F)Cl | C17H17ClFNO4S
